* OpenAMS folded-cascode native-witness validation
* point_index=263
* source=ordered_dc_propagation_native_witness
.option savecurrents
.temp 27
.lib "/home/yhanafy/pdks/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

VDD_SUPPLY vdd 0 1.8
VSS_SUPPLY vss 0 0

* 1-V differential AC excitation, 0.9-V DC common mode.
VIP_SOURCE vip 0 DC 0.9 AC 0.5 0
VIN_SOURCE vin 0 DC 0.9 AC 0.5 180

.include "folded_cascode.spice"
XOTA vip vin vout vdd vss folded_cascode_ota

.control
set noaskquit
set filetype=ascii
op
echo OPENAMS_OP_BEGIN
print v(vdd) v(vss) v(vip) v(vin) v(xota.tail) v(xota.psrc_left) v(xota.psrc_right) v(xota.x) v(xota.nsink_left) v(xota.nsink_right) v(xota.vnb1_node) v(xota.vpb1_node) v(xota.vnb2_node) v(xota.vpb2_node) v(vout)
echo OPENAMS_OP_END
echo OPENAMS_DEVICE_BEGIN
print @m.xota.xm1.msky130_fd_pr__nfet_01v8[id] @m.xota.xm1.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm1.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm2.msky130_fd_pr__nfet_01v8[id] @m.xota.xm2.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm2.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm3.msky130_fd_pr__nfet_01v8[id] @m.xota.xm3.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm3.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm3.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm3.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm3.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm3.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm4.msky130_fd_pr__pfet_01v8[id] @m.xota.xm4.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm4.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm4.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm4.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm4.msky130_fd_pr__pfet_01v8[vbs] @m.xota.xm4.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xota.xm5.msky130_fd_pr__pfet_01v8[id] @m.xota.xm5.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm5.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm5.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm5.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm5.msky130_fd_pr__pfet_01v8[vbs] @m.xota.xm5.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xota.xm6.msky130_fd_pr__pfet_01v8[id] @m.xota.xm6.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm6.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm6.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm6.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm6.msky130_fd_pr__pfet_01v8[vbs] @m.xota.xm6.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xota.xm7.msky130_fd_pr__pfet_01v8[id] @m.xota.xm7.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm7.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm7.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm7.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm7.msky130_fd_pr__pfet_01v8[vbs] @m.xota.xm7.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xota.xm8.msky130_fd_pr__nfet_01v8[id] @m.xota.xm8.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm8.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm8.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm8.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm8.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm8.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm9.msky130_fd_pr__nfet_01v8[id] @m.xota.xm9.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm9.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm9.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm9.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm9.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm9.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm10.msky130_fd_pr__nfet_01v8[id] @m.xota.xm10.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm10.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xota.xm11.msky130_fd_pr__nfet_01v8[id] @m.xota.xm11.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm11.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm11.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm11.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm11.msky130_fd_pr__nfet_01v8[vbs] @m.xota.xm11.msky130_fd_pr__nfet_01v8[vdsat]
echo OPENAMS_DEVICE_END
ac dec 100 1 1e+10
wrdata openams_ac.dat frequency vdb(vout) vp(vout)
quit
.endc
.end
